US07622466B2
b) 2-(4,4-Difluoro-piperidine-1-carbonyl)-5-hydroxy-pyrrolo[2,3-b]pyridine-1-carboxylic Acid tert-butyl Ester
To the solution of 0.3 g (0.64 mmol) 5-benzyloxy-2-(4,4-difluoro-piperidine-1-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester in 3 ml methanol and 4 ml ethyl acetate 45 mg palladium on activated charcoal (10%) was added and the suspension was hydrogenated at 1.3 bar for 15 min. The suspension was filtered over Dicalite Speed Plus®(Aldrich), the filtercake was washed with ethyl acetate and methanol and the filtrate evaporated. The residue was purified by flash column chromatography on silica gel with ethyl acetate:n-heptane (2:1) as eluant to give 0.19 g (78%) of the desired compound as a colorless solid.

reactant | 5-benzyloxy-2-(4,4-difluoro-piperidine-1-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester | 0.64 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OCC2=CC=CC=C2)C(=O)N2CCC(CC2)(F)F | C25H27F2N3O4
reactant | ethyl acetate | 4 ml, 45 mg | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 ml | CO | CH4O
product | 2-(4,4-Difluoro-piperidine-1-carbonyl)-5-hydroxy-pyrrolo[2,3-b]pyridine-1-carboxylic Acid tert-butyl Ester | 0.19 g, 78% | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)O)C(=O)N2CCC(CC2)(F)F | C18H21F2N3O4
